US07115645B2
a) 5-Chloro-2-nitrophenyl-o-tolylamine
81 ml of o-toluidine was added to absolution of 10 g of 1-chloro-3,4-dinitrobenzene in 50 ml of ethanol, and it was refluxed for 72 hours. It was concentrated by evaporation in a vacuum, the residue was taken up in ethyl acetate and 2N aqueous hydrochloric acid. The organic phase was extracted three more times with 2N aqueous hydrochloric acid, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by chromatography on silica gel.

reactant | o-toluidine | 81 ml | NC=1C(=CC=CC1)C | C7H9N
reactant | 1-chloro-3,4-dinitrobenzene | 10 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-Chloro-2-nitrophenyl-o-tolylamine | ClC=1C=CC(=C(C1)NC1=C(C=CC=C1)C)[N+](=O)[O-] | C13H11ClN2O2
